US04359468
N-{3-[4-(3-Indolyl)-piperidino]-propyl}-N'-isopropenylbenzimidazolone by method D
0.5 gm of the above intermediate were dissolved in 5 ml tetrahydrofuran and added to a cooled suspension of N-isopropenyl-benzimidazolone sodium salt prepared from 0.34 gm of N-isopropenyl-benzimidazolone and 0.05 gm of sodium hydride in 5 ml of dimethylformamide. The mixture was stirred for 16 hours at room temperature and then poured on ice-water-ammonia. The crystalline product was filtered off and dried. Yield: 0.65 gm (81% of theory), m.p. 68° C., identical with the product obtained by method B in Example 6.

reactant | N-isopropenyl-benzimidazolone sodium salt | [Na].C(=C)(C)N1C(NC2=C1C=CC=C2)=O
reactant | N-isopropenyl-benzimidazolone | 0.34 gm | C(=C)(C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | sodium hydride | 0.05 gm | [H-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-{3-[4-(3-Indolyl)-piperidino]-propyl}-N'-isopropenylbenzimidazolone | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C26H30N4O
